US05439917
2,3-Dimethyl-7-(o-nitrophenacyl)pyrrolo[2,3-b]pyridine.
The title compound was prepared on a 5 mmol scale from 2,3-dimethylpyrrolo[2,3-b]pyridine and o-nitrophenacyl bromide in the same manner as described in example 27 yielding 1.3 g (66%) pure hydrobromide as a yellow solid. Reprocessing of the motherliquor gave additional material.

reactant | 2,3-dimethylpyrrolo[2,3-b]pyridine | CC1=C(C=2C(=NC=CC2)N1)C | C9H10N2
reactant | o-nitrophenacyl bromide | [N+](=O)([O-])C1=C(C(CBr)=O)C=CC=C1 | C8H6BrNO3
reactant | hydrobromide | 1.3 g | Br | BrH
product | 2,3-Dimethyl-7-(o-nitrophenacyl)pyrrolo[2,3-b]pyridine | CC1=C(C=2C(N(C=CC2)CC(=O)C2=C(C=CC=C2)[N+](=O)[O-])=N1)C | C17H15N3O3
